US06951881B2
Preparation of 2-{[5-Chloro-2-(2,4-dichlorophenyl)-1H-indol-3-yl]ethylidene}hydrazinecarboximidamide
A solution of 5-chloro-2-(2,4-dichlorophenyl)-1H-indole (160 mg, 0.54 mmol) and acetyl chloride (80 μL, 1.2 mmol) in CH2Cl2 is treated with tin tetrachloride (1.0 M solution in CH2Cl2, 1 mL), shaken at room temperature for 6 h, quenched with saturated NaHCO3 and extracted with ethyl acetate. The extracts are combined and concentrated in vacuo. The resultant residue is suspended in isopropanol and concentrated HCl (100 μL), treated with aminoguanidine bicarbonate (100 mg, 0.75 mmol), heated at 80° C. for 2 h, cooled to room temperature and concentrated in vacuo. This residue is purified by HPLC to afford the title compound, 7.0 mg (3% yield), identified by HPLC1 and mass spectral analyses; (M+H) 395; retention time 4.51 min.

reactant | 5-chloro-2-(2,4-dichlorophenyl)-1H-indole | 0.54 mmol, 160 mg | ClC=1C=C2C=C(NC2=CC1)C1=C(C=C(C=C1)Cl)Cl | C14H8Cl3N
reactant | acetyl chloride | 1.2 mmol, 80 μL | C(C)(=O)Cl | C2H3ClO
reactant | tin tetrachloride | 1.0 M, 1 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | HCl | 100 μL | Cl | ClH
reactant | aminoguanidine bicarbonate | 0.75 mmol, 100 mg | C(O)(O)=O.NNC(=N)N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{[5-Chloro-2-(2,4-dichlorophenyl)-1H-indol-3-yl]ethylidene}hydrazinecarboximidamide | 3% yield | ClC=1C=C2C(=C(NC2=CC1)C1=C(C=C(C=C1)Cl)Cl)CC=NNC(N)=N | C17H14Cl3N5
